US07939534B2
A mixture of (3-((6-chloro-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate (0.10 g, 0.19 mmol), tetrakis(triphenylphosphine)palladium(0) (0.045 g, 0.039 mmol), K2CO3 (0.081 g, 0.59 mmol), cyclopenten-1-yl boronic acid (0.026 g, 0.23 mmol) and NMP (0.2 mL) was sealed in a tube and microwaved at 150° C. for 30 min. The reaction mixture was filtered through a silica plug with EtOAc, washed with H2O, brine, dried (Na2SO4) and concentrated to give tert-butyl (3-((6-cyclopentenyl-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate. LC/MS (M+H+) m/z 546.2.

reactant | (3-((6-chloro-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate | 0.19 mmol, 0.10 g | ClC1=NC(=C(C(=O)NCC=2C(=NC=CC2)CNC([O-])=O)C=C1)NCCC1=CC(=CC=C1)F
reactant | K2CO3 | 0.59 mmol, 0.081 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopenten-1-yl boronic acid | 0.23 mmol, 0.026 g | C1(=CCCC1)B(O)O | C5H9BO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.039 mmol, 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
product | tert-butyl (3-((6-cyclopentenyl-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate | C1(=CCCC1)C1=NC(=C(C(=O)NCC=2C(=NC=CC2)CNC(OC(C)(C)C)=O)C=C1)NCCC1=CC(=CC=C1)F | C31H36FN5O3
